US09290485B2
a) tent-Butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate
To a mixture of 6-amino-2,4-dimethylnicotinonitrile (10 g, 67.9 mmol, prepared according to K. Sato, M. Shashi, T. Amakasu, K. Takeda, Bulletin of the Chemical Society of Japan 1969, 42, 2319) and DMAP (0.830 g, 6.79 mmol) in THF (200 ml) was added Boc2O (27.5 g, 126 mmol) at rt. The reaction mixture was stirred for 14 h, before it was concentrated. Purification by column chromatography (CombiFlash Companion, 120 g SiO2, heptane to heptane:EA 3:1) afforded a mixture of the mono- and bis-protected starting material. This mixture was dissolved in MeOH (270 ml) and DCM (80 ml) and cooled to 0° C. NaOH (1N, 102 ml, 102 mmol) and H2O2 (35%, 8.92 ml, 102 mmol) were added and the reaction mixture was stirred at 0° C. for 75 min after which LCMS indicated complete conversion. The reaction mixture was transferred to an aqueous solution of Na2SO3 (2N, 300 ml, 600 mmol), concentrated in vacuo to ca. 300 ml (bath temperature<50° C.), and extracted with DCM (6×150 ml). The combined extracts were dried over Na2SO4, filtered and concentrated to dryness affording the desired product. LCMS RtM=1.97 min, [M+H]+=248.2.

reactant | 6-amino-2,4-dimethylnicotinonitrile | NC1=NC(=C(C#N)C(=C1)C)C | C8H9N3
reactant | Boc2O | 126 mmol, 27.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 102 mmol, 1N, 102 ml | [OH-].[Na+]
reactant | H2O2 | 102 mmol, 8.92 ml | OO | H2O2
reactant | Na2SO3 | 600 mmol, 2N, 300 ml | [O-]S(=O)[O-].[Na+].[Na+]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 6.79 mmol, 0.830 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeOH | 270 ml | CO | CH4O
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
product | Butyl 5-cyano-4,6-dimethylpyridin-2-ylcarbamate | C(#N)C=1C(=CC(=NC1C)NC(OCCCC)=O)C | C13H17N3O2
